US08975415B2
Under argon atmosphere, to a mixture of di-tert-butyl (6′-bromo-2′,2′-dimethyldispiro[1,3-oxazole-4,4′-chromene-3′,3″-oxetan]-2-yl)imidodicarbonate (1.00 g, 1.81 mmol), bis(dibenzylideneacetone)palladium (0) (104 mg, 0.181 mmol) and tri-tert-butylphosphonium tetrafluoroborate (53.5 mg, 0.181 mmol) was added lithium bis(trimethylsilyl)amide (1.0 M in toluene, 9.03 mL, 9.03 mmol) at ambient temperature. After stirring for 1 hour at 100° C., the reaction mixture was cooled down to ambient temperature. To the mixture were added 1.0 M hydrochloric acid (9.0 mL) and MeOH (9.0 mL) and the mixture was stirred for 30 minutes at ambient temperature. After extraction of the mixture with CHCl3, the organic layer was dried over Na2SO4 and filtered. The filtrate was concentrated at reduced pressure and the residue was purified by column chromatography on silica gel (hexane-EtOAc, a linear gradient of EtOAc from 0 to 90%) to give tert-butyl (6′-amino-2′,2′-dimethyldispiro[1,3-oxazole-4,4′-chromene-3′,3″-oxetan]-2-yl)carbamate (616 mg).

reactant | di-tert-butyl (6′-bromo-2′,2′-dimethyldispiro[1,3-oxazole-4,4′-chromene-3′,3″-oxetan]-2-yl)imidodicarbonate | 1.81 mmol, 1.00 g | BrC=1C=C2C3(N=C(OC3)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C3(COC3)C(OC2=CC1)(C)C | C25H33BrN2O7
reactant | tri-tert-butylphosphonium tetrafluoroborate | 0.181 mmol, 53.5 mg | F[B-](F)(F)F.C(C)(C)(C)[PH+](C(C)(C)C)C(C)(C)C
reactant | lithium bis(trimethylsilyl)amide | 9.03 mmol, 1.0 M, 9.03 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | hydrochloric acid | 1.0 M, 9.0 mL | Cl | ClH
catalyst | bis(dibenzylideneacetone)palladium | 0.181 mmol, 104 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
solvent | MeOH | 9.0 mL | CO | CH4O
product | tert-butyl (6′-amino-2′,2′-dimethyldispiro[1,3-oxazole-4,4′-chromene-3′,3″-oxetan]-2-yl)carbamate | 616 mg | NC=1C=C2C3(N=C(OC3)NC(OC(C)(C)C)=O)C3(COC3)C(OC2=CC1)(C)C | C20H27N3O5
